US08957074B2
Following general N—C coupling procedure 1, 5-Bromo-2-nitropyridine (1 gm, 4.93 mmol) was combined with tert-butyl 4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (1.18 gm, 4.93 mmol) which gave tert-butyl 3-(6-nitropyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (1.4 gm) in 78% yield.

reactant | 5-Bromo-2-nitropyridine | 4.93 mmol, 1 gm | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | tert-butyl 4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 4.93 mmol, 1.18 gm | O=C1NCC2CCC(C1)N2C(=O)OC(C)(C)C | C12H20N2O3
product | tert-butyl 3-(6-nitropyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 1.4 gm, 78% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1CC2CCC(CC1=O)N2C(=O)OC(C)(C)C | C17H22N4O5
